US07326788B2
d. 4-Cyclohept-1-enyl-3-(3-methyl-isoxazol-5-yl)-2-oxo-1,2-dihydro-quinoline-6-carbonitrile
A mixture of trifluoro-methanesulfonic acid 6-cyano-3-(3-methyl-isoxazol-5-yl)-2-oxo-1,2-dihydro-quinolin-4-yl ester (30 mg, 0.075 mmol), cyclohepten-1-ylboronic acid (12.6 mg, 0.090 mmol), Pd(PPh3)4 (8.7 mg, 0.0075 mmol) and Na2CO3 (375 ul, 0.75 mmol, 2.0 M) in 1 ml of 1,4-dioxane was stirred at 80° C. for 1 h, then cooled to rt. Treated with 20 ml of H2O, the mixture was acidified to PH=7 with 1N HCl and then extracted with EtOAc (3×15 ml). The combined organic layers were washed with H2O (20 ml), brine (15 ml) and dried (Na2SO4). Removal of the solvent under reduced pressure followed by flash chromatography of the residue on silica gel (10-20% EtOAc/DCM) gave 15.1 mg (58%) of product as a white solid: 1H-NMR (CDCl3; 400 MHz) δ 12.3 (s, 1H), 8.08 (d, 1H, J=1.7 Hz), 7.77 (dd, 1H, J=8.6, 1.7 Hz), 7.43 (d, 1H, J=8.6 Hz), 6.70 (s, 1H), 5.79 (t, 1H, J=6.1 Hz), 2.44 (s, 3H), 2.26-2.52 (m, 4H), 1.62-1.94 (m, 6H). Mass spectrum (ESI, m/z): Calcd. for C21H19N3O2, 346.2 (M+H), found 346.1.

reactant | trifluoro-methanesulfonic acid 6-cyano-3-(3-methyl-isoxazol-5-yl)-2-oxo-1,2-dihydro-quinolin-4-yl ester | 0.075 mmol, 30 mg | C(#N)C=1C=C2C(=C(C(NC2=CC1)=O)C1=CC(=NO1)C)OS(=O)(=O)C(F)(F)F | C15H8F3N3O5S
reactant | cyclohepten-1-ylboronic acid | 0.090 mmol, 12.6 mg | C1(=CCCCCC1)B(O)O | C7H13BO2
reactant | Na2CO3 | 0.75 mmol, 2.0 M, 375 ul | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.0075 mmol, 8.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 20 ml | O | H2O
product | 4-Cyclohept-1-enyl-3-(3-methyl-isoxazol-5-yl)-2-oxo-1,2-dihydro-quinoline-6-carbonitrile | 15.1 mg, 58% | C1(=CCCCCC1)C1=C(C(NC2=CC=C(C=C12)C#N)=O)C1=CC(=NO1)C | C21H19N3O2
